US06387692B1
At room temperature, a solution of 7.8 g (0.05 mol) of racemic 1-(4-chloro-phenyl)-ethylamine in 35 ml of methyl tert-butyl ether is mixed with stirring with 8.32 g (0.08 mol) of methyl methoxyacetate and then with 0.39 g of Novozym 435® (=immobilized lipase from Candida antarctica; 7300 U/g). Stirring is continued at room temperature and the progress of the reaction is monitored by gas chromatographic sample analysis. After 4.5 hours, the conversion is 55%. At this stage, the reaction is terminated by filtering off the enzyme. In the filtrate that remains, the (S)-enantiomer of 1-(4-chloro-phenyl)-ethylamine has an ee value of 98.1%, while the (R)-enantiomer of N-(1-(4-chlorophenyl)-ethyl]-methoxyacetamide obtained has an ee value of 96%.

reactant | racemic 1-(4-chloro-phenyl)-ethylamine | 0.05 mol, 7.8 g | ClC1=CC=C(C=C1)C(C)N | C8H10ClN
reactant | methyl methoxyacetate | 0.08 mol, 8.32 g | COCC(=O)OC | C4H8O3
solvent | methyl tert-butyl ether | 35 ml | C(C)(C)(C)OC | C5H12O
product | N-(1-(4-chlorophenyl)-ethyl]-methoxyacetamide | ClC1=CC=C(C=C1)C(C)NC(COC)=O | C11H14ClNO2
